US04567272
6-methoxy-3-nitro-2-n-propylaminopyridine
Into a stirred and cooled (water bath) mixture of 188.6 g (1 mole) of 2-chloro-6-methoxy-3-nitropyridine and 200 ml of isopropanol, 141.9 g (2.4 mole) of n-propylamine are added drop by drop in the course of about 3 hours at a maximum temperature of 25° C. Stirring is continued overnight and then 1000 ml of water are added; the precipitated product is filtered off by suction, washed with water and then dried. The product obtained thereby is intensively yellow colored with a melting point of 69°-70° C. in a yield of 98% of theory.

reactant | 2-chloro-6-methoxy-3-nitropyridine | 1 mole, 188.6 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | isopropanol | 200 ml | C(C)(C)O | C3H8O
reactant | n-propylamine | 2.4 mole, 141.9 g | C(CC)N | C3H9N
solvent | water | 1000 ml | O | H2O
product | 6-methoxy-3-nitro-2-n-propylaminopyridine | yield of 98% | COC1=CC=C(C(=N1)NCCC)[N+](=O)[O-] | C9H13N3O3
